US07687491B2
(3b) 5-({[t-Butyl(dimethyl)silyl]oxy}methyl)-N′-hydroxythiophene-3-carboximidamide
The crude product of the title compound was synthesized by conducting the similar reaction to that mentioned in Example 1 (1d) using 5-({[t-butyl(dimethyl)silyl]oxy}methyl)thiophene-3-carbonitrile (4.3 g, 17 mmol) that was obtained in Example 3 (3a) and a 40% aqueous solution of hydroxylamine (2.2 ml). Subsequently, the crude product of the title compound thus obtained was purified by chromatography on a silica gel column using a mixed solvent of ethyl acetate and hexane (1:10 to 2:5) as the eluent to afford the title compound (4.7 g) in a yield of 97% as a white crystalline solid.

reactant | 5-({[t-butyl(dimethyl)silyl]oxy}methyl)thiophene-3-carbonitrile | 17 mmol, 4.3 g | [Si](C)(C)(C(C)(C)C)OCC1=CC(=CS1)C#N | C12H19NOSSi
reactant | hydroxylamine | 2.2 ml | NO | H3NO
product | 5-({[t-Butyl(dimethyl)silyl]oxy}methyl)-N′-hydroxythiophene-3-carboximidamide | [Si](C)(C)(C(C)(C)C)OCC1=CC(=CS1)C(N)=NO | C12H22N2O2SSi
